US07807672B2
Preparation of [3-(3-Chloro-4-hydroxy-phenylcarbamoyl)-pyrrolidin-1-yl]-acetic acid tert-butyl ester
To a mixture of 1-tert-Butoxycarbonylmethyl-pyrrolidine-3-carboxylic acid, Lithium salt (0.5 g, 2.12 mmol) and HOBt (0.45 g, 3.3 mmol) in DMF (10 ml) at 0° C. was added EDCl (630 mg, 3.3 mmol). The formed reaction mixture was stirred at 0° C. for 0.5 hour and then 4-amino-2-chloro-phenol was added. After stirred at RT for overnight, the reaction mixture was added to ice-water (50 g) and the formed precipitated was collected by filtration, washed with sodium bicarbonate and HCl (0.1 N). After drying in air, the crude product (720 mg) was used directly in the next step. Mass Spec ES (355.2, M+H)

reactant | 1-tert-Butoxycarbonylmethyl-pyrrolidine-3-carboxylic acid | C(C)(C)(C)OC(=O)CN1CC(CC1)C(=O)O | C11H19NO4
reactant | Lithium | 2.12 mmol, 0.5 g | [Li] | Li
reactant | HOBt | 3.3 mmol, 0.45 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 3.3 mmol, 630 mg | CCN=C=NCCCN(C)C.Cl
reactant | 4-amino-2-chloro-phenol | NC1=CC(=C(C=C1)O)Cl | C6H6ClNO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | [3-(3-Chloro-4-hydroxy-phenylcarbamoyl)-pyrrolidin-1-yl]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1CC(CC1)C(NC1=CC(=C(C=C1)O)Cl)=O)=O | C17H23ClN2O4
